US07714010B2
(A13) 5-Amino-1-(4-methoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (1.5 g) is synthesized according to the general procedure using 4-methoxybenzyl chloride (0.92 g; 5.86 mmol) and K2CO3 (2.3 g; 16.6 mmol) at RT for 20 h. After filtration and evaporation of the solvent the crude material is de-acetylated under reflux conditions in 2-propanol (15 ml) and hydrochloric acid (6 N; 45 ml). Pure 5-amino-1-(4-methoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one (1.71 g) precipitates by pouring the reaction mixture into ice-water.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 1.5 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | 4-methoxybenzyl chloride | 5.86 mmol, 0.92 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | K2CO3 | 16.6 mmol, 2.3 g | C(=O)([O-])[O-].[K+].[K+]
product | 5-Amino-1-(4-methoxy-benzyl)-3,3-dimethyl-6-nitro-1,3-dihydro-indol-2-one | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])CC1=CC=C(C=C1)OC)=O)(C)C | C18H19N3O4
